US04454338
To a solution of 9.9 g of 6-amidino-2-naphthol methanesulfonate in 100 ml of anhydrous pyridine, while being cooled in ice and stirred, was added 5.8 g of cinnamoyl chloride. After having been stirred overnight at room temperature, the mixture was admixed with ethyl acetate and the resulting precipitate was collected by filtration. The precipitate was suspended in methanol, mixed with a saturated aqueous sodium hydrogencarbonate solution with stirring, and the precipitate was collected by filtration. After having been washed with water and acetone, the precipitate was suspended in methanol and mixed with methanesulfonic acid. After having been stirred for same time, the mixture was admixed with ethyl ether, the precipitate was collected by filtration and recrystallized from a methanol-ethyl ether mixture to obtain 7.1 g of 6-amidino-2-naphthyl cinnamate methanesulfonate.

reactant | 6-amidino-2-naphthol methanesulfonate | 9.9 g | CS(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | C12H12N2O3S
reactant | cinnamoyl chloride | 5.8 g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 6-amidino-2-naphthyl cinnamate methanesulfonate | 7.1 g | CS(=O)(=O)O.C(C=CC1=CC=CC=C1)(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | InChI=1S/C20H16N2O2.CH4O3S/c21-20(22)17-8-7-16-13-18(10-9-15(16)12-17)24-19(23)11-6-14-4-2-1-3-5-14;1-5(2,3)4/h1-13H,(H3,21,22);1H3,(H,2,3,4)
